US05750526
b) 1-(2,2,2-Trichloroethoxycarbonyl)-6-trifluoromethyl-1,2,3,4-tetrahydroquinoline-2-phosphonic acid diethyl ester
71.6 g of 1-(2,2,2-trichloroethoxycarbonyl)-6-trifluoromethyl-1,2-dihydroquinoline-2-phosphonic acid diethyl ester is dissolved in 800 ml of ethanol, mixed with 3.6 g of platinum(IV)-oxide and hydrogenated at normal pressure. It is filtered, concentrated by evaporation and recrystallized from isopropyl ether.

reactant | 1-(2,2,2-trichloroethoxycarbonyl)-6-trifluoromethyl-1,2-dihydroquinoline-2-phosphonic acid diethyl ester | 71.6 g | C(C)OP(OCC)(=O)C1N(C2=CC=C(C=C2C=C1)C(F)(F)F)C(=O)OCC(Cl)(Cl)Cl | C17H18Cl3F3NO5P
solvent | ethanol | 800 ml | C(C)O | C2H6O
catalyst | platinum(IV)-oxide | 3.6 g | [Pt](=O)=O
product | 1-(2,2,2-Trichloroethoxycarbonyl)-6-trifluoromethyl-1,2,3,4-tetrahydroquinoline-2-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C1N(C2=CC=C(C=C2CC1)C(F)(F)F)C(=O)OCC(Cl)(Cl)Cl | C17H20Cl3F3NO5P
